US07144909B2
To a suspension of bis(4-methoxyphenyl)iodonium tetrafluoroborate (3.3 g) (prepared analogously to the method of Yokayama et al, Journal of Medicinal Chemistry 1995, 38, 695–707) and copper bronze (0.56 g) in dichloromethane (10 mL), was added a solution of methyl(3,5-dibromo-4-hydroxyphenyl)propionate (1.50 g) (prepared according to: Li, Yi-Lin; Liu, Ye; Hedfors, Asa; Malm, Johan; Mellin, Charlotta; Zhang, Minsheng; (Karo Bio A B, Swed.; et al.): Preparation of 4-(4-hydroxyphenoxy)phenylacetic acid derivatives as novel thyroid receptor ligands. PCT Int. Appl., 46 pp. Application: WO 98-EP4039 980626. Priority: GB 97-13739 970627) and triethylamine (0.7 mL g) in dichloromethane (6.5 mL) dropwise at room temperature. The mixture was stirred overnight and then filtered through a pad of silica gel. After concentration, the resulting residue was separated on a silica gel column eluted with ethyl acetate/light petroleum ether (2/8). The pure fractions were pooled and concentrated to dryness. The residue afforded 0.71 g of methyl [3,5-dibromo-4-(4-methoxyphenoxy)phenyl]propionate.

reactant | bis(4-methoxyphenyl)iodonium tetrafluoroborate | 3.3 g | F[B-](F)(F)F.COC1=CC=C(C=C1)[I+]C1=CC=C(C=C1)OC
reactant | methyl(3,5-dibromo-4-hydroxyphenyl)propionate | 1.50 g | CC(C(=O)[O-])(C)C1=CC(=C(C(=C1)Br)O)Br
reactant | 4-(4-hydroxyphenoxy)phenylacetic acid | OC1=CC=C(OC2=CC=C(C=C2)CC(=O)O)C=C1 | C14H12O4
reactant | triethylamine | 0.7 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 6.5 mL | ClCCl | CH2Cl2
catalyst | copper bronze | 0.56 g | [Cu] | Cu
product | methyl [3,5-dibromo-4-(4-methoxyphenoxy)phenyl]propionate | 0.71 g | BrC=1C=C(C=C(C1OC1=CC=C(C=C1)OC)Br)C(C(=O)OC)C | C17H16Br2O4
